US05739132
In 50 ml of dimethylformamide were dissolved 1.14 g of 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane and 0.8 g of triethyl amine, and 1.25 g of n-butanesulfonyl chloride was added thereto. The mixture was stirred at 50° C for 30 minutes and then stirred at room temperature overnight. The solvent was removed, water was added to the residue, and crystals precipitated were collected by filtration. The resulting crystals were recrystallized from methanol to obtain 1.27 g of 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane | 1.14 g | NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C13H13N3O
reactant | triethyl amine | 0.8 g | C(C)N(CC)CC | C6H15N
reactant | n-butanesulfonyl chloride | 1.25 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]indane | 1.27 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C17H21N3O3S
